US08486952B2
To a suspension of magnesium (2.88 g, 118 mmol) in THF (110 mL) was slowly added 5-bromo-1,2,3-trifluorobenzene (25 g, 118 mmol). After the addition, the reaction mixture was heated at reflux for 2 h. To this reaction mixture, copper (I) iodide (1.506 g, 7.91 mmol) and 6-oxabicyclo[3.1.0]hexane (9.93 g, 118 mmol) dissolved in THF (20 mL) were added dropwise. The reaction mixture warmed upon the addition of the epoxide. The reaction was stirred at rt for 2 h at rt. The reaction mixture was quenched by the addition of a solution of ammonium chloride. Ether was added and the organic layer was collected, dried (Na2SO4) and concentrated. The crude product was purified by column chromatography on silica gel to give (1S,2R)-2-(3,4,5-trifluorophenyl)cyclopentanol (20.2 g, 93 mmol, 79% yield).

reactant | magnesium | 118 mmol, 2.88 g | [Mg] | Mg
reactant | 5-bromo-1,2,3-trifluorobenzene | 118 mmol, 25 g | BrC=1C=C(C(=C(C1)F)F)F | C6H2BrF3
reactant | 6-oxabicyclo[3.1.0]hexane | 118 mmol, 9.93 g | C12CCCC2O1 | C5H8O
solvent | THF | 110 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
catalyst | copper (I) iodide | 7.91 mmol, 1.506 g | [Cu]I
product | (1S,2R)-2-(3,4,5-trifluorophenyl)cyclopentanol | 93 mmol, 20.2 g, 79% yield | FC=1C=C(C=C(C1F)F)[C@@H]1[C@H](CCC1)O | C11H11F3O
